US06110934
N-(2-Methyl-1,2,3,4-tetrahydroisoquinol-5-yl)-5-[3-(trifluoromethyl)-3H-diazirin-3-yl]-2-methoxybenzamide
The title compound was prepared in an analogous manner to Example 1 from 5-amino-2-methyl-1,2,3,4-tetrahydroisoquinoline and 5-[3-(trifluoromethyl)-3H-diazirin-3-yl]-2-methoxybenzoic acid.

reactant | 5-amino-2-methyl-1,2,3,4-tetrahydroisoquinoline | NC1=C2CCN(CC2=CC=C1)C | C10H14N2
reactant | 5-[3-(trifluoromethyl)-3H-diazirin-3-yl]-2-methoxybenzoic acid | FC(C1(N=N1)C=1C=CC(=C(C(=O)O)C1)OC)(F)F | C10H7F3N2O3
product | N-(2-Methyl-1,2,3,4-tetrahydroisoquinol-5-yl)-5-[3-(trifluoromethyl)-3H-diazirin-3-yl]-2-methoxybenzamide | CN1CC2=CC=CC(=C2CC1)NC(C1=C(C=CC(=C1)C1(N=N1)C(F)(F)F)OC)=O | C20H19F3N4O2
